US04284631
Sulfuryl chloride (39.26 g.) was added to a solution of ethyl 2-(4-chlorobenzyloxyimino)-3-oxobutyrate (syn isomer, 75.03 g.), in acetic acid (75 ml.), and then stirred at 37° to 40° C. for 8 hours. After the air was bubbled into the reaction mixture, the mixture was added to ice water. The mixture was extracted with methylene chloride, and the extract was washed with sodium bicarbonate saturated aqueous solution and sodium chloride saturated aqueous solution in turn. The solution was dried over magnesium sulfate and concentrated in vacuo to give ethyl 4-chloro-2-(4-chlorobenzyloxyimino)-3-oxobutyrate (syn isomer, 77.23 g.).

reactant | Sulfuryl chloride | 39.26 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | ethyl 2-(4-chlorobenzyloxyimino)-3-oxobutyrate | 75.03 g | ClC1=CC=C(CON=C(C(=O)OCC)C(C)=O)C=C1 | C13H14ClNO4
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
product | ethyl 4-chloro-2-(4-chlorobenzyloxyimino)-3-oxobutyrate | 77.23 g | ClCC(C(C(=O)OCC)=NOCC1=CC=C(C=C1)Cl)=O | C13H13Cl2NO4
